US07371765B2
2-(2,2-Dimethoxypropyl)-3-fluoro-4-phthalimidonitrobenzene (5.5 g, 14 mmol) was suspended in a mixture of THF (200 ml) and methanol (100 ml). HCl 2N (1 ml) was added and the mixture was stirred at ambient temperature for 30 minutes. The solvents were evaporated off and the residue redissolved in methylene chloride, dried (MgSO4), filtered and the solvent evaporated off. The residue was triturated in pentane and collected by filtration to give 2-(acetylmethyl)-3-fluoro-4-phthalimidonitrobenzene (4.8 g, 100%) as a pale yellow solid.

reactant | 2-(2,2-Dimethoxypropyl)-3-fluoro-4-phthalimidonitrobenzene | 14 mmol, 5.5 g | COC(CC1=C(C=CC(=C1F)N1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-])(C)OC | C19H17FN2O6
reactant | HCl | 2N, 1 ml | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
product | 2-(acetylmethyl)-3-fluoro-4-phthalimidonitrobenzene | 4.8 g, 100% | C(C)(=O)CC1=C(C=CC(=C1F)N1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-] | C17H11FN2O5
